US08067448B2
2-chloro-4-((1R,2S)-2-hydroxy-1-(5-(4-(methylsulfonyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile
To a 500 mL, round-bottomed flask equipped with a magnetic stir bar and septum was added N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenyl-amino)-3-hydroxybutanoyl)-4-(methylsulphonyl)benzohydrazide (1.12 mg, 2.4 mmol) followed by a addition of anhydrous THF (250 mL) under an atmosphere of nitrogen. To this was then added tosyl chloride (461 mg, 2.4 mmol) followed by addition of polystyrene bound (2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine (PS-BEMP) (2.2 mmol/g loading, 3.30 g, 7.3 mmol). This mixture was allowed to stir at room temperature for a period of 16 h. The solids were then filtered off and washed with additional THF (100 mL). The filtrate was then concentrated under reduced pressure to reveal a red solid. This was purified via silica gel chromatography eluted with 80% EtOAc/hexanes to yield product as a white solid (247 mg, 23%). 1H NMR (500 MHz, acetone-d6, δ in ppm) 8.23 (AA′XX′, J=8.7 Hz, 2H), 8.12 (AA′XX′, J=8.6 Hz, 2H), 7.47 (d, J=8.7 Hz, 1H), 6.87 (d, J=8.8 Hz, 1H), 5.70 (d, J=8.7 Hz, 1H), 5.17 (dd, J=3.6, 8.5 Hz, 1H), 4.86 (br s, 1H), 4.66 (m, 1H), 3.20 (s, 3H), 2.40 (s, 3H), 1.43 (d, J=6.3 Hz, 3H).

reactant | N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenyl-amino)-3-hydroxybutanoyl)-4-(methylsulphonyl)benzohydrazide | 2.4 mmol, 1.12 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)S(=O)(=O)C)=O)[C@H](C)O)C | C20H21ClN4O5S
reactant | tosyl chloride | 2.4 mmol, 461 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine | 7.3 mmol, 3.30 g | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | BEMP | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-((1R,2S)-2-hydroxy-1-(5-(4-(methylsulfonyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile | 247 mg, 23% | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)S(=O)(=O)C | C20H19ClN4O4S
